US09034900B2
Step 2: 5-bromo-1-methyl-3-(2-trimethylsilylethynyl)pyridin-2-one
A mixture of 5-bromo-3-iodo-1-methylpyridin-2-one (8.0 g, 25.48 mmol), ethynyltrimethylsilane (2.7 g, 27.52 mmol), CuI (485 mg, 2.55 mmol), Pd(PPh3)2Cl2 (1.79 g, 2.55 mmol) and triethylamine (12.9 g, 127.4 mmol) in dry THF (100 mL) was heated to 60° C. under an atmosphere of nitrogen for 2 h. The mixture was concentrated and the residue was purified by column chromatography on silica gel (PE:EA=5:1) to give the title compound (6 g, 82%) as a yellow solid. 1H NMR (CDCl3, 400 MHz): δ 7.61 (d, J=2.4 Hz, 1H), 7.42 (d, J=2.4 Hz, 1H), 3.54 (s, 3H), 0.25 (s, 9H). LCMS (M+H)+=285.

reactant | 5-bromo-3-iodo-1-methylpyridin-2-one | 25.48 mmol, 8.0 g | BrC=1C=C(C(N(C1)C)=O)I | C6H5BrINO
reactant | ethynyltrimethylsilane | 27.52 mmol, 2.7 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 127.4 mmol, 12.9 g | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | CuI | 2.55 mmol, 485 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 2.55 mmol, 1.79 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-bromo-1-methyl-3-(2-trimethylsilylethynyl)pyridin-2-one | 6 g, 82% | BrC=1C=C(C(N(C1)C)=O)C#C[Si](C)(C)C | C11H14BrNOSi
